US05654326
By the method used in Example 1, Part D, 1.6 g (4.9 mmol) of 1-([1,1'-biphenyl]-2-ylmethyl)-4-methoxy-2-methyl-1H-indole was O-demethylated by treating it with 20 mL of 1M BBr3 /CH2Cl2. The crude product was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 841 mg (55% yield) of 1-([1,1'-biphenyl]-2-ylmethyl)-4-hydroxy-2-methyl-1H-indole.

reactant | 1-([1,1'-biphenyl]-2-ylmethyl)-4-methoxy-2-methyl-1H-indole | 4.9 mmol, 1.6 g | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)OC)C)C1=CC=CC=C1 | C23H21NO
solvent | BBr3 CH2Cl2 | 1M, 20 mL | B(Br)(Br)Br.C(Cl)Cl
product | 1-([1,1'-biphenyl]-2-ylmethyl)-4-hydroxy-2-methyl-1H-indole | 841 mg, 55% yield | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)O)C)C1=CC=CC=C1 | C22H19NO
